US09281482B2
(2) synthesis of 9-(4-iodophenyl)-6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole
6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole (1.76 g, 4.19 mmol), 1,4-diiodobenzene (2.76 g, 8.37 mmol), CuI (319 mg, 1.67 mmol), K3PO4 (1.78 g, 8.37 mmol), trans-1,2-dicyclohexanediamine (0.2 mL, 1.67 mmol) were put in a 250 mL two-neck flask and dissolved in 1,4-dioxane. The solution was refluxed and stirred at 120° C. for 12 hours. After completion of the reaction, the solution was extracted with methylenechloride/H2O and distilled under reduced pressure to remove the solvent. The resultant was columned with a solution of n-hexane and methylenechloride (1:5) and was re-crystallized in a solution of methylene chloride and petroleum ether such that the solid compound was obtained, (1.67 g, yield: 64%).

reactant | 6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole | 4.19 mmol, 1.76 g | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=C2C3=C(NC2=CC1)N=CC=C3 | C31H20N2
reactant | 1,4-diiodobenzene | 8.37 mmol, 2.76 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | K3PO4 | 8.37 mmol, 1.78 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | CuI | 1.67 mmol, 319 mg | [Cu]I
product | 9-(4-iodophenyl)-6-(10-phenylanthracen-9-yl)-9H-pyrido[2,3-b]indole | yield: 64% | IC1=CC=C(C=C1)N1C2=C(C3=CC(=CC=C13)C=1C3=CC=CC=C3C(=C3C=CC=CC13)C1=CC=CC=C1)C=CC=N2 | C37H23IN2
